US06297375B1
b) 4-o-tolyl-nicotinic Acid
A solution of 1.13 g (5.0 mmol) methyl 4-o-tolyl-nicotinoate in 15 ml ethanol and 12 ml 2 N sodium hydroxide solution was heated to reflux for 1 h. The pH was adjusted to 5 and the mixture was extracted twice with ethyl acetate. The combined organic layers were dried (sodium sulfate) and evaporated to give 1 g (94%) of the title compound as off white crystals.

reactant | methyl 4-o-tolyl-nicotinoate | 5.0 mmol, 1.13 g | C1(=C(C=CC=C1)C1=CC=NC=C1C(=O)OC)C | C14H13NO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2 N, 12 ml | [OH-].[Na+]
product | 4-o-tolyl-nicotinic Acid | 1 g, 94% | C1(=C(C=CC=C1)C1=CC=NC=C1C(=O)O)C | C13H11NO2
